US06969710B2
tert-Butyl 4-[3-(ethylamino)-4-nitrophenyl]-1-piperazinecarboxylate
To a solution of N-ethyl-2-nitro-5-(1-piperazinyl)aniline (1.020 g, 4.075 mmol), and NaOH (0.39 g, 2.45 mmol) in THF:H2O (64 mL, 1:1) was added a solution of di-tertbutyl-dicarbonate (2.67 g, 12.2 mmol) in 5 mL THF. The solution was stirred at room temperature for 16 hours. The mixture was neutralized with 1 N HCl. The volatiles were removed under vacuum to yield 1.4 g of crude material (98%). 1H NMR (CDCl3) δ 8.28 (br s, 1H), 8.13-8.09 (m, 1H), 6.27-6.22 (m, 1H), 6.05-6.02 (m, 1H), 3.67-3.61 (m, 4H), 3.45-3.38 (m, 4H), 3.35-3.27 (m, 2H), 1.50 (s, 9H); MS (posESI) m/z=found 350.1951. calc 350.1954.

reactant | N-ethyl-2-nitro-5-(1-piperazinyl)aniline | 4.075 mmol, 1.020 g | C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | C12H18N4O2
reactant | NaOH | 2.45 mmol, 0.39 g | [OH-].[Na+]
reactant | di-tertbutyl-dicarbonate | 12.2 mmol, 2.67 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 64 mL | O | H2O
product | tert-Butyl 4-[3-(ethylamino)-4-nitrophenyl]-1-piperazinecarboxylate | 1.4 g, 98% | C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
